US07816379B2
Preparation of (R)-3-(4-(2-(2-methyltetrazol-5-yl)pyridin-5-yl)-3-fluorophenyl)-5-methoxymethyl oxazolidin-2-on (compound 33)
In 10 ml of methanol was dissolved 400 mg of (R)-3-(4-(2-(2-methyltetrazol-5-yl)pyridin-5-yl)-3-fluorophenyl)-5-methansulfonyloxymethyl oxazolidin-2-on prepared in the secondary step of the Example 24. The solution was added with 90 mg of sodium methoxide at room temperature and then stirred for one day at room temperature. The solution was extracted with ethyl acetate and the organic layer, thus separated, was washed with water and brine. The organic layer was dehydrated, filtered, concentrated in vacuo and purified by column chromatography to provide the title compound 200 mg. Yield 58%.

reactant | (R)-3-(4-(2-(2-methyltetrazol-5-yl)pyridin-5-yl)-3-fluorophenyl)-5-methansulfonyloxymethyl oxazolidin-2-on | 400 mg | CN1N=C(N=N1)C1=NC=C(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C18H17FN6O5S
reactant | sodium methoxide | 90 mg | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (R)-3-(4-(2-(2-methyltetrazol-5-yl)pyridin-5-yl)-3-fluorophenyl)-5-methoxymethyl oxazolidin-2-on | 200 mg, Yield 58% | CN1N=C(N=N1)C1=NC=C(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC)=O)F | C18H17FN6O3
